US04006182
Into a mixture of 87 gm of isobutyric acid amide and 82 gm of phosphorous acid, hydrogen chloride gas was introduced for 8 hours. During this time the mixture was stirred and the temperature was held at 155° -160° C. By further processing of the reaction mixture analogously to Example 1, the 1-amino-2-methylpropane-1,1 -diphosphonic acid was isolated and purified. The yield was 8 gm.

reactant | isobutyric acid amide | 87 gm | C(C(C)C)(=O)N | C4H9NO
reactant | phosphorous acid | 82 gm | P(O)(O)O | H3O3P
reactant | hydrogen chloride | Cl | ClH
product | 1-amino-2-methylpropane-1,1 -diphosphonic acid | NC(C(C)C)(P(O)(=O)O)P(O)(=O)O | C4H13NO6P2
